US04209515
2.50 ml (corresponding to 0.0067 mole of chromium trioxide) of an oxidation solution according to Jones (preparation of 250 ml by dissolving of 66.8 g of chromium trioxide in 57.5 ml of concentrated sulphuric acid and making up with water to 250 ml) is added dropwise at room temperature, with stirring, to a solution of 4.22 g (0.01 mole) of 1-[2-(α-hydroxybenzyl)-4-chlorophenyl]-5-[(dimethylamino)-methyl]-1H-1,2,4-triazole-3-carboxamide-hydrochloride in 800 ml of acetone. The reaction mixture, gradually assuming a green colour, is stirred for 18 hours at room temperature, and then concentrated in vacuo to 100 ml. Ice and saturated sodium carbonate solution are added until the pH-value has reached 10, and extraction is performed twice with ethyl acetate. The organic phase is washed twice with water and once with saturated sodium chloride solution and dried over magnesium sulphate. The drying agent is filtered off, and there is added to the filtrate ethereal hydrogen chloride solution until the pH-value has reached 3. The hydrochloride, precipitating in crystalline form, is filtered off with suction and washed with ethyl acetate and ether. After drying in vacuo, there is obtained 1-(2-benzoyl-4-chlorophenyl)-5-[(dimethylamino)-methyl]-1H-1,2,4-triazole-3-carboxamide-hydrochloride, m.p. 250° (with decomposition).

reactant | water | O | H2O
reactant | 1-[2-(α-hydroxybenzyl)-4-chlorophenyl]-5-[(dimethylamino)-methyl]-1H-1,2,4-triazole-3-carboxamide-hydrochloride | 0.01 mole, 4.22 g | Cl.OC(C1=CC=CC=C1)C1=C(C=CC(=C1)Cl)N1N=C(N=C1CN(C)C)C(=O)N
solvent | sulphuric acid | 57.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 800 ml | CC(=O)C | C3H6O
catalyst | chromium trioxide | 0.0067 mole | [O-2].[O-2].[O-2].[Cr+6]
catalyst | chromium trioxide | 66.8 g | [O-2].[O-2].[O-2].[Cr+6]
product | 1-(2-benzoyl-4-chlorophenyl)-5-[(dimethylamino)-methyl]-1H-1,2,4-triazole-3-carboxamide-hydrochloride | Cl.C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)N1N=C(N=C1CN(C)C)C(=O)N | InChI=1S/C19H18ClN5O2.ClH/c1-24(2)11-16-22-19(18(21)27)23-25(16)15-9-8-13(20)10-14(15)17(26)12-6-4-3-5-7-12;/h3-10H,11H2,1-2H3,(H2,21,27);1H
